US07485283B2
Synthesis of toluene-4-sulfonic acid 4-(4-[(3-methyl-4-oxo-4H-chromen-2-ylamino)-methyl]-phenyl)-butyl ester
To a solution of 2-[4-(4-hydroxy-butyl)-benzylamino]-3-methyl-chromen-4-one (100 mg, 0.30 mmol) in dichloromethane (37 mL) was added p-toluenesulfonylchloride (68 mg, 0.36 mmol), dimethylaminopyridine (43.4 mg, 0.36 mmol), and triethylamine (62 μL, 0.44 mmol) in a 0° C. ice bath. The reaction slurry stirred overnight under N2 atmosphere, warming to room temperature slowly overnight. The next day, the reaction mixture was concentrated and purified by flash column chromatography (3:1→1:1 Hexane:ethyl acetate→100% ethyl acetate) to obtain the product as an oil (45 mg, 31% yield). 1H NMR (600 MHz, CDCl3): δ 8.19 (dd, 1H, J=1.5 and 7.9 Hz), 7.76 (d, 2H, J=8.3 Hz), 7.76 (m, 1H), 7.32 (d, 2H, J=7.9 Hz), 7.29 (d, 2H, J=8.1 Hz), 7.26 (d, 2H, J=8.0 Hz), 7.13 (d, 2H, J=8.0 Hz), 4.90 (t, 1H, J=5.1 Hz), 4.64 (d, 2H, J=5.6 Hz), 4.02 (t, 2H, J=5.9 Hz), 2.57 (t, 2H, J=7.3 Hz), 2.43 (s, 3H), 1.96 (s, 3H), 1.65 (m, 4H); 13C NMR (150 MHz, CDCl3): δ 174.9, 160.2, 152.8, 144.7, 141.5, 135.4, 133.1, 131.4, 129.8, 128.9, 127.9, 127.7, 125.9, 124.6, 122.8, 116.2, 93.4, 70.3, 45.5, 34.7, 28.4, 27.1, 21.6, 7.6.

reactant | 2-[4-(4-hydroxy-butyl)-benzylamino]-3-methyl-chromen-4-one | 0.30 mmol, 100 mg | OCCCCC1=CC=C(CNC=2OC3=CC=CC=C3C(C2C)=O)C=C1 | C21H23NO3
reactant | p-toluenesulfonylchloride | 0.36 mmol, 68 mg | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | dimethylaminopyridine | 0.36 mmol, 43.4 mg | CN(C)C1=NC=CC=C1 | C7H10N2
reactant | triethylamine | 0.44 mmol, 62 μL | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 37 mL | ClCCl | CH2Cl2
product | toluene-4-sulfonic acid 4-(4-[(3-methyl-4-oxo-4H-chromen-2-ylamino)-methyl]-phenyl)-butyl ester | 45 mg, 31% yield | CC1=C(OC2=CC=CC=C2C1=O)NCC1=CC=C(C=C1)CCCCOS(=O)(=O)C1=CC=C(C=C1)C | C28H29NO5S
